US04810713
4-[Bis(4-methoxyphenyl)methyl]-1-[3-(3,4-dimethoxyphenoxy)propyl]piperidine
A mixture of 5.58 g (0.02 mole) of 4-[bis(4-methoxyphenyl)methyl]piperidine, 4.83 g (0.021 mole) of 4-(3-chloropropoxy)-1,2-dimethoxybenzene, and potassium carbonate, 5.52 g (0.04 mole) was heated overnight at reflux in 350 ml of 1-butanol containing potassium iodide (0.3 g). The reaction mixture was stripped to dryness, and the residue partitioned between chloroform-5% sodium hydroxide and chloroform-water. Removal of chloroform gave a dark brown oil. The oil was subjected to column chromatography on a silica gel column with elution via ethyl acetate-dimethoxy ethane. This produced 4.72 g (46.7%) of dark brown oil.

reactant | 4-[bis(4-methoxyphenyl)methyl]piperidine | 0.02 mole, 5.58 g | COC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)OC | C20H25NO2
reactant | 4-(3-chloropropoxy)-1,2-dimethoxybenzene | 0.021 mole, 4.83 g | ClCCCOC1=CC(=C(C=C1)OC)OC | C11H15ClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
product | 4-[Bis(4-methoxyphenyl)methyl]-1-[3-(3,4-dimethoxyphenoxy)propyl]piperidine | COC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC(=C(C=C1)OC)OC)C1=CC=C(C=C1)OC | C31H39NO5
